US06951706B2
11.20 parts of sodium 4-(2-cyclohexylethoxycarbonyl)-2,6-dinitrobenzenesulfonate was dissolved in 60.0 parts of ion-exchanged water and 60 parts of methanol. The solution was passed thrice through a column filled with 32.07 parts of ion-exchange resin (Duolite C20 H type, manufactured by Sumitomo Chemical Co., Ltd.). After concentrating to eliminate methanol, the concentrate was freeze-dried to obtain 9.87 parts of 2-cyclohexylethyl 4-sulfo-3,5-dinitrobenzoate.

reactant | sodium 4-(2-cyclohexylethoxycarbonyl)-2,6-dinitrobenzenesulfonate | C1(CCCCC1)CCOC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])S(=O)(=O)[O-])[N+](=O)[O-].[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-cyclohexylethyl 4-sulfo-3,5-dinitrobenzoate | S(=O)(=O)(O)C1=C(C=C(C(=O)OCCC2CCCCC2)C=C1[N+](=O)[O-])[N+](=O)[O-] | C15H18N2O9S
